US05686469
1-[2-(S)-[(Thiophene-2-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (113 mg) with 2-thiophenecarbonyl chloride (50 uL) provided 74 mg (55%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure. Rf=0.46 (EtOAc). LSIMS=456; (mass calculated for C26H37N3O2S=455.60).

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 113 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | 2-thiophenecarbonyl chloride | 50 uL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | 1-[2-(S)-[(Thiophene-2-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | 74 mg, 55% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(=O)C=1SC=CC1)=O | C26H37N3O2S
